US04902698
(c) 4-[5-(4-Chlorophenylsulphamoyl)pyrid-2-yl]-butanoic acid
A solution of methyl 4-[5-(4-chlorophenylsulphamoyl)pyrid-2-yl]butanoate (0.8 g), 10% w/v sodium hydroxide solution (5 ml) in ethanol (15 ml) was stirred for 1 hour. The solution was acidified with dilute hydrochloric acid (pH 3) and cooled to 5° C. The white precipitate was collected and recrystallised from ethanol to give the title compound (0.504 g) as prisms. m.p. 150°-152° C.

reactant | methyl 4-[5-(4-chlorophenylsulphamoyl)pyrid-2-yl]butanoate | 0.8 g | ClC1=CC=C(C=C1)NS(=O)(=O)C=1C=CC(=NC1)CCCC(=O)OC | C16H17ClN2O4S
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | pH 3 | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[5-(4-Chlorophenylsulphamoyl)pyrid-2-yl]-butanoic acid | 0.504 g | ClC1=CC=C(C=C1)NS(=O)(=O)C=1C=CC(=NC1)CCCC(=O)O | C15H15ClN2O4S
